US06362177B1
A solution of 1-(4-chlorobenzyl)-4-{(glycylamino)methyl}piperidine (0.050 mmol) in CHCl3 (1.35 mL) and tert-butanol (0.15 mL) was treated with 3-bromo-4-methylbenzoic acid (0.060 mmol), diisopropylcarbodiimide (0.060 mmol), and HOBt (0.060 mmol). The reaction mixture was stirred at room temperature for 15 h. The mixture was loaded onto Varian™ SCX column, and washed with CH3OH/CHCl3 1:1 (12 mL) and CH3OH (12 mL). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated to afford 4-[{N-(3-bromo-4-methylbenzoyl)glycyl}aminomethyl]-1-(4-chlorobenzyl) piperidine (Compound No. 1113) (16.1 mg, 65%): The purity was determined by RPLC/MS (95%); ESI/MS m/e 494.0 (C23H27BrClN3O2).

reactant | 1-(4-chlorobenzyl)-4-{(glycylamino)methyl}piperidine | 0.050 mmol | ClC1=CC=C(CN2CCC(CC2)CNC(CN)=O)C=C1 | C15H22ClN3O
reactant | 3-bromo-4-methylbenzoic acid | 0.060 mmol | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | diisopropylcarbodiimide | 0.060 mmol | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | HOBt | 0.060 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CHCl3 | 1.35 mL | C(Cl)(Cl)Cl | CHCl3
solvent | tert-butanol | 0.15 mL | C(C)(C)(C)O | C4H10O
product | 4-[{N-(3-bromo-4-methylbenzoyl)glycyl}aminomethyl]-1-(4-chlorobenzyl) piperidine | BrC=1C=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC=C(C=C2)Cl)C=CC1C | C23H27BrClN3O2
